US07211573B2
2.95 g (5.73 mmol) racemic (2S,3R and 2R,3S)-2-dibenzylamino-3-(4-fluoro-2-nitro-phenoxy)-4-phenyl-butyric acid in 59 ml methanol were hydrogenated with 1.76 g Raney-Nickel. Filtration and removal of the solvent by distillation yielded 2.26 g (81%) racemic (2S,3R and 2R,3S)-3-(2-amino-4-fluoro-phenoxy)-2-dibenzylamino-4-phenyl-butyric acid as light yellow oil, MS m/e (%): 485.5 (M+H+, 100).

reactant | 2-dibenzylamino-3-(4-fluoro-2-nitro-phenoxy)-4-phenyl-butyric acid | C(C1=CC=CC=C1)N(C(C(=O)O)C(CC1=CC=CC=C1)OC1=C(C=C(C=C1)F)[N+](=O)[O-])CC1=CC=CC=C1 | C30H27FN2O5
solvent | methanol | 59 ml | CO | CH4O
catalyst | Raney-Nickel | 1.76 g | [Ni] | Ni
product | 3-(2-amino-4-fluoro-phenoxy)-2-dibenzylamino-4-phenyl-butyric acid | NC1=C(OC(C(C(=O)O)N(CC2=CC=CC=C2)CC2=CC=CC=C2)CC2=CC=CC=C2)C=CC(=C1)F | C30H29FN2O3
